US08710242B2
4-Bromo-N-cyclopropyl-2-(trifluoromethyl)benzamide
1.50 g (1 eq, 5.57 mmol) of 4-bromo-2-(trifluoromethyl)benzoic acid (synthesis analogous to EP1445253 Yamanouchi Pharmaceutical Co. by bromination of the benzoic acid) were dissolved in ml of dichloromethane. Then 954 mg (1.0 eq. 5.57 mmol) of 6-chlorohydroxybenzotriazole, 1.28 g (1.2 eq, 6.69 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride and 1.45 ml (1.5 eq. 8.63 mmol) of N-ethyldiisopropylamine were added thereto, and the mixture was stirred at RT for 20 min. Subsequently, 477 mg (1.5 eq, 8.36 mmol) of cyclopropylamine were added thereto, and the reaction mixture was stirred at room temperature for 12 h. Thereafter, the mixture was concentrated under reduced pressure and the crude product dissolved in ethyl acetate (EA). The solution was washed 2× with buffer solution (0.5 M phosphate buffer pH=7) and then dried over MgSO4. The purification was effected by means of silica gel chromatography with the eluent cyclohexane/ethyl acetate (EA) (0% EA to 100% EA). This gives 831 mg (48%) of 4-bromo-N-cyclopropyl-2-(trifluoromethyl)benzamide as a white solid.

reactant | 4-bromo-2-(trifluoromethyl)benzoic acid | 5.57 mmol, 1.50 g, 1 eq | BrC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4BrF3O2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 6-chlorohydroxybenzotriazole | 5.57 mmol, 954 mg, 1.0 eq | ClC=1C=C(C2=C(NN=N2)C1)O | C6H4ClN3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 6.69 mmol, 1.28 g, 1.2 eq | Cl.CN(CCCN=C=NCC)C
reactant | N-ethyldiisopropylamine | 8.63 mmol, 1.45 ml, 1.5 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 8.36 mmol, 477 mg, 1.5 eq | C1(CC1)N | C3H7N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Bromo-N-cyclopropyl-2-(trifluoromethyl)benzamide | BrC1=CC(=C(C(=O)NC2CC2)C=C1)C(F)(F)F | C11H9BrF3NO
